data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7231,"CC#C[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4623,"CC[SH:1].O[C:2]([CH:3]=[CH2:4])=[OH+:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,6228,"CCC(O)[C:1]1=[NH+:2]CCO1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6983,"CC1(C)O[B-:1]([CH2:2][CH:3]=[CH:4]C)([O+:5]=[CH:6]C2=CC=CC=C2)OC1(C)C|((1, 2), 3);((3, 4), 6);((6, 5), 5)"
train,pmechdb_split_0,0,2928,"O=C(O)C1=C(C(O)=[N:1]CC2=CC=CC=C2)C=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4495,"CC(C)[O-].CCC([O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,6586,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=CC=C(C=CC[O:2][H:3])C=C1.C1CCOC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2803,"CC[CH:1]=[O:2].C[NH2+]CC(=O)[O-].C[NH:3]CC(=O)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9219,"CC(C)CC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C3CCCCC3)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1436,"C[As+](C)(C)[CH:1]=[CH2:2].[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7668,"C1CCC2=[N+:1]([H:2])CCCN2CC1.CC(=O)NC1=CC=C(S(=O)(=O)[NH-:3])C=C1.[N-]=[N+]=C(C(=O)OC1C(=O)N(CC2=CC=CC=C2)C2=C1C=CC=C2)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7412,"[O-]C1([OH+:1][K:2])C=CCCO1|((2, 1), 1)"
train,pmechdb_split_0,0,5498,"C1CCOC1.N#CC1=CC=C(N2CCC3(CC2)OCC[O:1]3)C=C1.O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4935,"CCNC[CH:1]=[C:2](C)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2830,"CC1CCC=CC(=[O+:1][Si-:2](C)(C)(C)N2CCC[N+]3=C2CCCCC3)C1.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,2448,"NC=[NH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4591,"CC[OH:1].C[Si](C)(C)OCC[C:2](O)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8359,"FC(F)(F)C[NH2:1].N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10067,"C=CCC(C1=CC=CC=C1)[O+:1]([Sn-]([Cl])([CH2]C)([CH2]C)[CH2]C)[Zn-:2]([Cl])[Cl]|((2, 1), 1)"
train,pmechdb_split_0,0,7824,"C=[O+][Si-:1](C)(C)(C)[O:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,3042,"I[P:1](I)I.[H:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9411,"O=C([O-])CCl.[H:1][NH3+:2].[OH][Ca][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8979,"C[CH:1]([C:2]#N)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9216,"CC(C)CC(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCCC(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3188,"C[CH:1]=[NH+:2]C.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4738,"CC(C)[C:1](C1=CC=CC=C1)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7977,"C[Si](C)(C)C[CH:1]=[CH2:2].O=C[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6412,"CC(=O)[CH2:1][Br:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1170,"CCN[C:1](C)([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4494,"C=C[C:1](CC(C)=[N+]1CCCC1)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8811,"CCCN1C(=O)C2=C(C=CC=C2)C1(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9395,"C[CH:1]=[NH+:2]C.[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6260,"C1CCC2=[N:1]CCCN2CC1.CC=C[C:2](O)([H:3])[C:4]1=[N+:5](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21.F[B-](F)(F)F.O=C(C1=CC=CC=C1)C(=CC1=CC=C(Br)C=C1)C(=O)C1=CC=CC=C1.O=C(C1=CC=CC=C1)C(=CC1=CC=CC=C1)C(=O)C1=CC=CC=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4840,"C1CC[NH:1]C1.CN1C2CCCC1[CH:2]([H:3])[C:4](=[N+:5]1CCCC1)C2.[OH][Ti-]([Cl])([Cl])([Cl])[Cl]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7565,"CC1CCC(S(=O)(=O)[C:1]2([H:2])N=COC23CCCC3)CC1.CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1218,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2=CC=CC=C2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4621,"CO[C+:1]1C2=C(C=CC=C2)C(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1345,"COC1=C([O-:1])C2=C(C=C1)CC1N(CC3CC3)CCC23C=CCCC13O.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8970,"C[C:1]1([H:2])C(=O)CC[C:3]1=[O:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5583,"CCN(CC)C(C)(O)[NH+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3361,"C[C:1](O)=[OH+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,504,"N#[N+:1][CH:2]1CCC1|((2, 1), 1)"
train,pmechdb_split_0,0,9721,"CC1(C)OC2C(O1)[CH+:1][CH:2]=[CH:3]C2OCC1=C(Br)C2=C(OCO2)[CH:4]=[CH:5]1|((4, 5), 3);((3, 2), 1)"
train,pmechdb_split_0,0,4483,"CC(C)C.CC[Si](CC)(CC)OC(CCOC1=CC=C([N+](=O)[O-])C=C1)CC(CC1([Si:1](CC)(CC)CC)SCCCS1)[O-:2].[Li+]|(2, 1)"
train,pmechdb_split_0,0,8152,"C[C+:1]=O.O=[N+]([O-])C1=C2C=C[CH:2]=[CH:3]C2=CC=C1|((2, 3), 1)"
